US06897231B2
A. Ethyl[3-(4-fluorophenyl)(1H-indazol-5-yl)]amine
To a solution of 1-{[3-(4-fluorophenyl)-5-nitro(1H-indazolyl)]methoxy}-2-methoxyethane (100 mg, 0.29 mmol) in ethanol (30 mL, containing a contaminant of acetaldehyde) was added a scoup of Pd/carbon. The reaction was stirred overnight at room temperature under an atmosphere of hydrogen. It was filtered over celite and the solution concentrated to an oil. The oil was taken up in methanol (20 mL) and 6N HCl (20 mL) and heated to 75° C. for 3 hours. The solution was concentrated under vacuo, added to saturated bicarbonate (100 mL), and extracted with ethyl acetate (3×30 mL). The organic layers were dried (Na2SO4), concentrated to an oil and chromatographed on silica gel, eluting with 50% ethyl acetate/hexane to give the title compound (8 mg, 11% yield). 1H NMR (CDCl3) δ 10.4 (br s, 1H), 7.91 (dd, 2H), 7.26-7.17 (m, 3H), 6.99 (s, 1H), 6.84 (dd, 1H), 3.21 (q, 2H), 1.31 (t, 3H); ES-MS (m/z) 256 [M+1]+.

reactant | 1-{[3-(4-fluorophenyl)-5-nitro(1H-indazolyl)]methoxy}-2-methoxyethane | 0.29 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)[N+](=O)[O-])COCCOC | C17H16FN3O4
reactant | acetaldehyde | C(C)=O | C2H4O
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd carbon | [Pd].[C]
product | Ethyl[3-(4-fluorophenyl)(1H-indazol-5-yl)]amine | 8 mg, 11% yield | C(C)NC=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C15H14FN3
